US07217723B2
2-(4-Fluoro-3-methoxyphenyl)ethylamine-hydrochloride
To a solution of [2-(4-fluoro-3-methoxyphenyl)ethyl]carbamic acid t-butyl ester (90 mg) in ethyl acetate (3 mL) was added a solution of 4N hydrochloric acid-ethyl acetate (3 mL) at room temperature and allowed to stand for 2.5 hours. The resulting solid was diluted with diethyl ether, then filtered, and washed with diethyl ether. After drying by aeration, and the title compound (416 mg) was obtained as a colorless solid.

reactant | [2-(4-fluoro-3-methoxyphenyl)ethyl]carbamic acid t-butyl ester | 90 mg | C(C)(C)(C)OC(NCCC1=CC(=C(C=C1)F)OC)=O | C14H20FNO3
reactant | hydrochloric acid ethyl acetate | 4N, 3 mL | Cl.C(C)(=O)OCC
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(4-Fluoro-3-methoxyphenyl)ethylamine-hydrochloride | 416 mg | Cl.FC1=C(C=C(C=C1)CCN)OC | InChI=1S/C9H12FNO.ClH/c1-12-9-6-7(4-5-11)2-3-8(9)10;/h2-3,6H,4-5,11H2,1H3;1H
